US04093644
In a 500 ml stirred reaction flask equipped with thermometer, air condenser, dropping funnel and ice water bath was placed 76.57 g (0.5 mol) of 5-methyl-2-nitrophenol in 150 ml of acetone and 5.5 g of powdered KOH (85 percent). The mixture was vigorously stirred at 10° C, whereupon 73 g of 2,2-dichloro-1,1-difluoroethene was gradually introduced. After stirring overnight, the reaction mixture was poured into ice water, and the lower organic layer separated by methylene chloride extraction. The extract was washed with diluted bicarbonate of soda solution, decolorized with charcoal, and dried over desiccant-grade magnesium sulfate. Evaporation of the solvent left an oily residue which was vacuum distilled at 5 mm to give 38.6 g of 2-(2,2-dichloro-1,1-difluoroethoxy)-4-methyl-1-nitrobenzene distilling at 156° C.

reactant | 5-methyl-2-nitrophenol | 0.5 mol, 76.57 g | CC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO3
reactant | 2,2-dichloro-1,1-difluoroethene | 73 g | ClC(=C(F)F)Cl | C2Cl2F2
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | KOH | 5.5 g | [OH-].[K+]
product | 2-(2,2-dichloro-1,1-difluoroethoxy)-4-methyl-1-nitrobenzene | 38.6 g | ClC(C(OC1=C(C=CC(=C1)C)[N+](=O)[O-])(F)F)Cl | C9H7Cl2F2NO3
